US06858638B2
3-Methylsulfonylamino-5-nitro-1H-indazole can be obtained as described in Example 2 from 0.7 g of 3-amino-5-nitro-1H-indazole, 23 ml of pyridine and 0.455 g of methylsulfonyl chloride. 0.85 g of 3-methylsulfonylamino-5-nitro-1H-indazole is thus obtained in the form of an orange powder used as it is in the following step.

reactant | 3-amino-5-nitro-1H-indazole | 0.7 g | NC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C7H6N4O2
reactant | methylsulfonyl chloride | 0.455 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 23 ml | N1=CC=CC=C1 | C5H5N
product | 3-methylsulfonylamino-5-nitro-1H-indazole | 0.85 g | CS(=O)(=O)NC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C8H8N4O4S
